US07105544B2
N-{3-[1-(3-{[BIS(4-CHLOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]-4-FLUOROPHENYL}-2-METHYLPROPANAMIDE
Example 54 was prepared from bis(4-chlorophenyl)acetic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-fluorophenyl}-2-methylpropanamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 7.62–7.57 (m, 3H), 7.27 (s, 8H), 7.23–7.19 (m, 1H), 6.94 (dd, 1H, J=8.8, 10.0 Hz), 4.78 (s, 1H), 3.39 (dd, 2H, J=6.0, 11.6 Hz), 2.93 (d, 2H, J=11.6 Hz), 2.77 (m, 1H), 2.48 (m, 1H), 2.42 (t, 2H, J=6.0 Hz), 1.99 (dt, 2H, J=1.6, 11.6 Hz), 1.77 (d, 2H, J=11.2 Hz), 1.69–1.61 (m, 4H), 1.22 (d, 6H, J=6.8 Hz); ESMS m/e: 584.2 (M+H)+.

reactant | bis(4-chlorophenyl)acetic acid | ClC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)Cl | C14H10Cl2O2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-fluorophenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1F)NC(C(C)C)=O | C18H28FN3O
product | N-{3-[1-(3-{[BIS(4-CHLOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]-4-FLUOROPHENYL}-2-METHYLPROPANAMIDE | ClC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1F)NC(C(C)C)=O)C1=CC=C(C=C1)Cl | C32H36Cl2FN3O2
